US04213978
Preparation of reactant L-cysteine butyl ester hydrochloride:
L-Cysteine hydrochloride 100 g was dissolved in 250 ml of butanol saturated with dry HCl. The solution was heated under reflux for 4 h. Excess of solvent was evaporated under evaporator. Ethyl acetate 150 ml was added to the residue to give crystals. Crystals were recrystallized from ethyl acetate, mp. 91° C., yield 30%, IR (KBr) 1745 cm-1 ; NMR (CDCl3) δ 9.2-8.4 (b, 3, NH3⊕), 4.7 (t, 1, --CH), 4.3 (t, 2-, --CH2)--, 3.3 (b, 2, CH2S), 1.0 (t, 3, --CH3 --), 1.0-3.0 (m, 4, --CH2CH2).

reactant | L-Cysteine hydrochloride | 100 g | Cl.N[C@@H](CS)C(=O)O
reactant | butanol | 250 ml | C(CCC)O | C4H10O
solvent | HCl | Cl | ClH
product | L-cysteine butyl ester hydrochloride | yield 30% | Cl.C(CCC)OC([C@@H](N)CS)=O | InChI=1S/C7H15NO2S.ClH/c1-2-3-4-10-7(9)6(8)5-11;/h6,11H,2-5,8H2,1H3;1H/t6-;/m0./s1
